US04820834
3-{[((3-Methoxyphenyl)amino)carbonyl)amino]-N,N-diethyl-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetamide
Equimolar amounts of 3-amino-N,N-diethyl-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetamide and 3-methoxyphenylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 222°-224° C.

reactant | 3-amino-N,N-diethyl-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepine-1-acetamide | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)N(CC)CC)=O | C21H24N4O2
reactant | 3-methoxyphenylisocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 3-{[((3-Methoxyphenyl)amino)carbonyl)amino]-N,N-diethyl-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetamide | COC=1C=C(C=CC1)NC(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)N(CC)CC)=O | C29H31N5O4
